US03931197
4-[4-[α-(p-Ethylphenyl)benzyl]piperidino]-4'-piperidino butyrophenone
A solution of 14.5 g (0.035 mole) of 4-[4-[α-(p-ethylphenyl)benzyl]piperidino]-4'-fluorobutyrophenone in 100 ml of piperidine is refluxed for 22 hours. The unreacted piperidine is removed under vacuum, and the remaining residue is triturated with water. The water is decanted, the residue is dissolved in methanol and added to a large amount of water. The resulting precipitate is dissolved in ether, dried over magnesium sulfate, treated with charcoal and filtered. The filtrate is concentrated to a solid residue and is recrystallized from ethanol-water to give the title compound.

reactant | 4-[4-[α-(p-ethylphenyl)benzyl]piperidino]-4'-fluorobutyrophenone | 0.035 mole, 14.5 g | C(C)C1=CC=C(C=C1)C(C1=CC=CC=C1)C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F | C30H34FNO
solvent | piperidine | 100 ml | N1CCCCC1 | C5H11N
product | 4-[4-[α-(p-Ethylphenyl)benzyl]piperidino]-4'-piperidino butyrophenone | C(C)C1=CC=C(C=C1)C(C1=CC=CC=C1)C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)N1CCCCC1 | C35H44N2O
